data/specific_train_final.csv
"[H:20][O:21]O.CC(CO[O:10])OC(=O)C>>[H:20][O:10]OCC(C)OC(=O)C.O[O:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:9][O:8][CH:7]([CH2:10][OH:11])[C:2]([CH3:1])[CH2:3][O:4][O:5][H:6]>>[H:6][O:5].[H:9][O:8][CH:7]([CH2:10][OH:11])[C:2]1([CH2:3][O:4]1)[CH3:1] 4,5-4,2; 4,5-5; 2-2,4",Room Temperature,Propagation,retroaddition
"C[CH:10]C1=C(C=CC=C1)C.[O:20][O]>>CC1=C(C=CC=C1)[CH:10](C)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:1][CH2:2][C:3](=[O:11])[CH:4]=[CH:5][CH:6]1[CH:8]([O:7]1)[CH:9]=[O:10].[OH:12]>>[CH3:1][CH2:2][C:3](=[O:11])[CH:4][CH:5]([CH:6]1[CH:8]([O:7]1)[CH:9]=[O:10])[OH:12] 12-12,5; 4,5-12,5; 4,5-4",Room Temperature,Propagation,addition
"CC(=O)OC(C)(C)C[O:21][O:20][O].[N+](=O)[O-]>>CC(=O)OC(C)(C)C[O:21].[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(O[O:1][N+:2]([O-])=O)=O>>CC(O[O:1])=O.[O-][N+:2]=O 1,2-1;2,1-2",Room Temperature,Initiation,homolyze
"CC(CO)C(C)O[O:20].[N:10]=O>>CC(CO)C(C)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][CH:21](C)CC(C)CC.[OH:10]>>[H:20][OH:10].CCC(C)C[CH:21]C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:15][O:14][O:13][CH2:12][CH:9][O:10][H:11].[O:16][O:17]>>[H:11][O:16][O:17].[H:15][O:14][O:13][CH2:12][CH:9]=[O:10] 11,10-11,16; 16-16,11; 11,10-9,10; 9-9,10",Room Temperature,Termination,abstraction
"[CH3:1][C:2]([CH2:6][O:7][OH:8])([CH:3]=[CH:4][OH:5])[O:9][O:10].[N:11]=[O:12]>>[CH3:1][C:2]([CH2:6][O:7][OH:8])([CH:3]=[CH:4][OH:5])[O:9][O:10][N:11]=[O:12] 10-10,11; 11-10,11",Room Temperature,Termination,recombine
"CC(C)C(C)O[O:20].[N:10]=O>>CC(C)C(C)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
[CH3:9][CH2:8][CH2:7][CH:6]([CH2:5][OH:4])[O:10].[N:2](=[O:3])[O:1]>>[CH3:9][CH2:8][CH2:7][CH:6]([CH2:5][OH:4])[O:10].[N+:2](=[O:3])[O-:1] 2-1,Room Temperature,Propagation,ha resonance
"[H:20][C:21](=O)C1(C(O1)(C)/C=C\C=O)C.[N+](=O)([O-])[O:10]>>[H:20][O:10][N+](=O)[O-].CC1(C(O1)(C)[C:21]=O)/C=C\C=O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][O:21][O].CCC(C(C)O)O[O:10]>>[H:20][O:10]OC(CC)C(C)O.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(C)[C:20]1(C=CC2C([CH:21]1O)O2)[O:10]>>CC(C)[C:20](=[O:10])C=CC1C(O1)[CH:21]O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,retroaddition
"[H:20][CH:21](C)OC(C)C.[N+](=O)([O-])[O:10]>>[H:20][O:10][N+](=O)[O-].C[CH:21]OC(C)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(C([O:21][O:20][O])Cl)Cl.[N+](=O)[O-]>>CC(C([O:21])Cl)Cl.[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"c1ccccc1[C](=O)O[O:10].[O:20]OC(=O)c1ccccc1>>c1ccccc1[C](=O)O[O:10][O:20]OC(=O)c1ccccc1 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C)OC(C)CO[O:20].[N+](=O)([O-])[O:10]>>CC(C)OC(C)CO[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C[C:10](C)[CH]1CCC(CO)=CC1.[O:20][O]>>OCC2=CCC([C:10](C)([O:20][O])C)CC2 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C[C:21](=[CH2:20])C.[N+](=O)([O-])[O:10]>>C[C:21](C)[CH2:20][O:10][N+](=O)[O-] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:7][O:8][O:9][O:10].[CH2:2]([CH2:3][O:4][CH2:5][O:6])[OH:1]>>[H:7][O:8].[CH2:2]([CH2:3][O:4][CH2:5][O:6])[OH:1].[O:9][O:10] 8,9-9; 8,9-8",Room Temperature,Initiation,homolyze
"C(C(O)(Cl)Cl)O[O:20].[N+](=O)([O-])[O:10]>>C(C(O)(Cl)Cl)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
[CH3:4][C:3]1([CH:6]=[CH:7][CH:8]2[CH:11]([C:2]1([O:10][O:9]2)[CH3:1])[OH:12])[O:5].[N:14](=[O:15])[O:13]>>[CH3:4][C:3]1([CH:6]=[CH:7][CH:8]2[CH:11]([C:2]1([O:10][O:9]2)[CH3:1])[OH:12])[O:5].[N+:14](=[O:15])[O-:13] 14-13,Room Temperature,Propagation,ha resonance
"[H:20][O:21][O].C(C(Cl)Cl)(O[O:10])Cl>>[H:20][O:10]OC(C(Cl)Cl)Cl.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:13][O:14][O:15].[CH3:1][C:2](=[CH:8][C:9](=[O:12])[O:10][O:11])[CH2:3][O:4][N+:5](=[O:7])[O-:6]>>[H:13][O:11][O:10][C:9](=[O:12])[CH:8]=[C:2]([CH3:1])[CH2:3][O:4][N+:5](=[O:7])[O-:6].[O:14][O:15] 14,13-14; 11-11,13; 14,13-11,13",Room Temperature,Propagation,abstraction
"C(C=CC[O:21][O:20][O])O[N+](=O)[O-].[N+](=O)[O-]>>C(C=CCO[N+](=O)[O-])[O:21].[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(C)C(=O)[O:20][O:21][O].[N+](=O)[O-]>>CC(C)C(=O)[O:20].[N+](=O)[O-].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCCC(C)CO[O:20].[N:10]=O>>CCCC(C)CO[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C)(C(CO[N+](=O)[O-])O[O:20])O.[N+](=O)([O-])[O:10]>>CC(C)(C(CO[N+](=O)[O-])O[O:20][O:10][N+](=O)[O-])O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCCC(CO)[O:20][O:21]N=O>>CCCC(CO)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
